US09278973B2
To a solution of isobutyric acid (25 g, 283.75 mmol) in water (25 mL) was added hydrazinecarboximidamide carbonic acid salt (15 g, 110.29 mmol) and HNO3 (0.3 mL), and the reaction mixture was stirred for 75 h at 110° C. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column (dichloromethane/methanol (15:1)) to afford 3-isopropyl-1H-1,2,4-triazol-5-amine as a white solid (9 g, 65%).

reactant | isobutyric acid | 283.75 mmol, 25 g | C(C(C)C)(=O)O | C4H8O2
reactant | hydrazinecarboximidamide carbonic acid salt | 110.29 mmol, 15 g | C(O)(O)=O.N(N)C(N)=N
reactant | HNO3 | 0.3 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 25 mL | O | H2O
product | 3-isopropyl-1H-1,2,4-triazol-5-amine | 9 g, 65% | C(C)(C)C1=NNC(=N1)N | C5H10N4
